US07060827B2
In a manner similar to the preparation of N4-(4-tert-butylphenyl)-5-fluoro-N2-(2,3-dihydro-2-carboxybenzofuran-5-yl)-2,4-pyrimidinediamine, N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(2-methoxycarbonylbenzofuran-5-yl)-2,4-pyrimidinediamine and LiOH were reacted to yield N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(2-carboxybenzofuran-5-yl)-2,4-pyrimidinediamine.

reactant | N4-(4-tert-butylphenyl)-5-fluoro-N2-(2,3-dihydro-2-carboxybenzofuran-5-yl)-2,4-pyrimidinediamine | C(C)(C)(C)C1=CC=C(C=C1)NC1=NC(=NC=C1F)NC=1C=CC2=C(CC(O2)C(=O)O)C1 | C23H23FN4O3
reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(2-methoxycarbonylbenzofuran-5-yl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C22H17FN4O5
reactant | LiOH | [Li+].[OH-]
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(2-carboxybenzofuran-5-yl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C21H15FN4O5
